US06693123B2
To a solution in ethyl acetate (20 mL) of [4-(pyrid-3-ylaminomethyl)-2-phenylbenzoyl]methionine methyl ester (2.96 g, 6.58 mmol), prepared as in Example 226A, was added HCl (1.0 M in ethyl acetate, 20 mL, 20 mmol) dropwise. The reaction mixture was stirred for 10 minutes and then was concentrated and the residue was azeotroped with toluene. Water (50 mL) was added and the milky mixture was concentrated and lyophilized to give [4-(pyrid-3-ylaminomethyl)-2-phenylbenzoyl]methionine methyl ester hydrochloride (3.04 g, 95%). 1H NMR (300 MHz, DMSO d6) δ 8.66 (d, 1H), 8.11 (s, 1H), 8.02 (t, 1H), 7.84 (bt, 1H), 7.71 (m, 2H), 7.44 (m, 3H), 7.26 (m, 5H), 4.53 (bd, 2H), 4.36 (ddd, 1H), 3.64 (s, 3H), 2.23 (m, 2H), 1.98 (s, 3H), 3.85 (m, 2H). MS (CI NH3) m/e 450 (M+H)+, 374, 319, 287. Anal calcd for C25H28ClN3O3S+0.58 H2O): C, 60.48; H, 5.92; N, 8.46; Cl, 7.29. Found: C, 60.49; H, 5.58; N, 8.40; Cl 7.84.

reactant | [4-(pyrid-3-ylaminomethyl)-2-phenylbenzoyl]methionine methyl ester | 6.58 mmol, 2.96 g | COC([C@@H](NC(C1=C(C=C(C=C1)CNC=1C=NC=CC1)C1=CC=CC=C1)=O)CCSC)=O | C25H27N3O3S
reactant | HCl | 20 mmol, 1.0 M, 20 mL | Cl | ClH
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | [4-(pyrid-3-ylaminomethyl)-2-phenylbenzoyl]methionine methyl ester hydrochloride | 3.04 g, 95% | Cl.COC([C@@H](NC(C1=C(C=C(C=C1)CNC=1C=NC=CC1)C1=CC=CC=C1)=O)CCSC)=O | InChI=1S/C25H27N3O3S.ClH/c1-31-25(30)23(12-14-32-2)28-24(29)21-11-10-18(16-27-20-9-6-13-26-17-20)15-22(21)19-7-4-3-5-8-19;/h3-11,13,15,17,23,27H,12,14,16H2,1-2H3,(H,28,29);1H/t23-;/m0./s1
